US04284645
8.1 g (0.03 mole) of 3-(2-chloro-2-phenyl-vinyl)-2,2-dimethyl-cyclopropane-carboxylic acid chloride and 6.5 g (0.03 mole) of 4-fluoro-3-phenoxy-benzaldehyde are added dropwise to a mixture of 2.25 g of sodium cyanide, 3.5 ml of water, 150 ml of n-hexane and 0.75 g of tetrabutylammonium bromide at 20° to 25° C., whilst stirring. The reaction mixture is then stirred at 20° to 25° C. for 4 hours and is subsequently diluted with 300 ml of toluene and washed twice with 300 ml of water each time. The organic phase is dried over magnesium sulphate and the solvent is distilled off under a waterpump vacuum. Last residues of solvent are removed by brief incipient distillation at 60° C./1 mbar. 10.8 g (76% of theory) of 3-(2-chloro-2-phenyl-vinyl)-2,2-dimethyl-cyclopropanecarboxylic acid 4-fluoro-3-phenoxy-α-cyano-benzyl ester are obtained as a viscous oil.

reactant | 3-(2-chloro-2-phenyl-vinyl)-2,2-dimethyl-cyclopropane-carboxylic acid chloride | 0.03 mole, 8.1 g | ClC(=CC1C(C1C(=O)Cl)(C)C)C1=CC=CC=C1 | C14H14Cl2O
reactant | 4-fluoro-3-phenoxy-benzaldehyde | 0.03 mole, 6.5 g | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | sodium cyanide | 2.25 g | [C-]#N.[Na+]
reactant | water | 3.5 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.75 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | 150 ml | CCCCCC | C6H14
product | 3-(2-chloro-2-phenyl-vinyl)-2,2-dimethyl-cyclopropanecarboxylic acid 4-fluoro-3-phenoxy-α-cyano-benzyl ester | 10.8 g, 76% | FC1=C(C=C(C(C#N)OC(=O)C2C(C2C=C(C2=CC=CC=C2)Cl)(C)C)C=C1)OC1=CC=CC=C1 | C28H23ClFNO3
